US08426540B2
Using 2-Aminophenol and 5-(2-(trifluoromethyl)phenyl)furan-2-carbaldehyde, 3.53 g of 2-{[5-(2-(trifluoromethyl)phenyl)furan-2-yl]methyleneamino}phenol were obtained as a yellow powder (yield 89%).

reactant | 2-Aminophenol | NC1=C(C=CC=C1)O | C6H7NO
reactant | 5-(2-(trifluoromethyl)phenyl)furan-2-carbaldehyde | FC(C1=C(C=CC=C1)C1=CC=C(O1)C=O)(F)F | C12H7F3O2
product | 2-{[5-(2-(trifluoromethyl)phenyl)furan-2-yl]methyleneamino}phenol | 3.53 g | FC(C1=C(C=CC=C1)C1=CC=C(O1)C=NC1=C(C=CC=C1)O)(F)F | C18H12F3NO2
